US09085570B2
A solution of methyl 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)-benzoate (1.0 g, 2.65 mmol, 1.00 equiv) in 6N hydrochloric acid (20 mL) was refluxed overnight. The reaction mixture was cooled to room temperature and 30 mL of water and ice were added. The precipitate ws collected by filtration, washed with 3×20 mL of hexane and dried in a vacuum oven to give 0.85 g (88%) of 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)benzoic acid as a white solid. LC-MS: (ES, m/z): 365 [M+H]+, 341, 257, 216, 189, 146, 115.

reactant | methyl 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)-benzoate | 2.65 mmol, 1.0 g, 1.00 equiv | C1(CCCCC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C19H23NO5S
reactant | water | 30 mL | O | H2O
solvent | hydrochloric acid | 6N, 20 mL | Cl | ClH
product | 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)benzoic acid | 0.85 g, 88% | C1(CCCCC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)O)C=C1 | C18H21NO5S
